US07713994B2
(Z)-6-Bromo-4-((4-(diethylamino)butylamino)methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione (70.5 mg, 0.25 mmole), dimethylformamide (2 mL) and N1,N1-diethylbutane-1,4-diamine (36.1 mg, 0.25 mmole) is stirred at room temperature for one hour. The reaction mixture is diluted with ether, filtered and washed with fresh ether and dried to give a light brown solid, 26.0 mg, (26% yield) MS (ES+): 394.2, (M+H).

reactant | 6-bromo-4-(methoxymethylene)-isoquinoline-1,3(2H,4H)-dione | 0.25 mmole, 70.5 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | N1,N1-diethylbutane-1,4-diamine | 0.25 mmole, 36.1 mg | C(C)N(CCCCN)CC | C8H20N2
solvent | ether | CCOCC | C4H10O
product | (Z)-6-Bromo-4-((4-(diethylamino)butylamino)methylene)isoquinoline-1,3(2H,4H)-dione | 26% yield | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCCCCN(CC)CC | C18H24BrN3O2
